US04654358
8-(1.4.5-Triphenylimidazol-2-yl mercapto)-octanoic acid
170 g of 8-(1.4.5-triphenylimidazol-2-yl mercapto)-octanoic acid methyl ester are dissolved in 1.2 l of tetrahydrofurane. 42 g of sodium hydride dissolved in 700 cc. of methanol are added thereto. The mixture is stirred 24 hours at 40° to 50° C., cooled, diluted with about 2 l of water and acidified with delute hydrochloric acid. The crude acid is filtered off, dried and recrystallized from toluene.

reactant | 8-(1.4.5-triphenylimidazol-2-yl mercapto)-octanoic acid methyl ester | 170 g | COC(CCCCCCCSC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H32N2O2S
reactant | sodium hydride | 42 g | [H-].[Na+]
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofurane | 1.2 l | O1CCCC1 | C4H8O
solvent | water | about 2 l | O | H2O
product | 8-(1.4.5-Triphenylimidazol-2-yl mercapto)-octanoic acid | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCCCCCCCC(=O)O | C29H30N2O2S
